US07220775B2
2-[4-(2-METHOXYBENZYL)-1-PIPERAZINYL]-N4,N4-DIMETHYL-N6-(4-METHYLPHENYL)-4,6-PYRIMIDINEDIAMINE
A mixture of N4,N4-dimethyl-N6-(4-methylphenyl)-2-(1-piperazinyl)-4,6-pyrimidinediamine (30 mg, 0.086 mmol), 1-(chloromethyl)-2-methoxybenzene (17 mg, 0.1 mmol) and triethylamine (200 mg, 2 mmol) in 1 DMF (1 mL) heated by microwave at 200° C. for 12 minutes. The crude product was treated with saturated NaHCO3 (50 mL) and extracted with EtOAC (3×50 mL). The organic layer was washed with brine (2×100 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by chromatography on silica using hexane/EtOAc (1:3), giving the desired product (10 mg, 27%).

reactant | N4,N4-dimethyl-N6-(4-methylphenyl)-2-(1-piperazinyl)-4,6-pyrimidinediamine | 0.086 mmol, 30 mg | CN(C1=NC(=NC(=C1)NC1=CC=C(C=C1)C)N1CCNCC1)C | C17H24N6
reactant | 1-(chloromethyl)-2-methoxybenzene | 0.1 mmol, 17 mg | ClCC1=C(C=CC=C1)OC | C8H9ClO
reactant | triethylamine | 2 mmol, 200 mg | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-METHOXYBENZYL)-1-PIPERAZINYL]-N4,N4-DIMETHYL-N6-(4-METHYLPHENYL)-4,6-PYRIMIDINEDIAMINE | 10 mg, 27% | COC1=C(CN2CCN(CC2)C2=NC(=CC(=N2)N(C)C)NC2=CC=C(C=C2)C)C=CC=C1 | C25H32N6O
